US07498460B2
Ethyl 4-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-3-({cis-[2-(ethoxy-carbonyl)cyclohexyl]amino}carbonyl)benzoate
The compound is prepared in analogy to the process described in Example 6 from 2-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-5-(ethoxycarbonyl)benzoic acid and ethyl cis-2-amino-1-cyclohexanecarboxylate hydrochloride.

reactant | 2-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-5-(ethoxycarbonyl)benzoic acid | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C(=O)O)C=C(C=C1)C(=O)OCC)C1=CC=CC=C1 | C32H30O6
reactant | ethyl cis-2-amino-1-cyclohexanecarboxylate hydrochloride | Cl.N[C@@H]1[C@@H](CCCC1)C(=O)OCC
product | Ethyl 4-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-3-({cis-[2-(ethoxy-carbonyl)cyclohexyl]amino}carbonyl)benzoate | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OCC)C=C1)C(=O)N[C@H]1[C@H](CCCC1)C(=O)OCC)C1=CC=CC=C1 | C41H45NO7
